US07943619B2
1-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-pyrrolidin-2-one
To a solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine (1.0 g, 3.5 mmol) in THF (15 ml) was added triethylamine (0.59 mL, 4.3 mmol). The mixture was cooled in an ice bath and a solution of 4-chlorobutyryl chloride (0.48 mL, 4.3 mmol) in THF (5 mL) was added dropwise. After stirring for 1 h at room temperature the precipitate was filtered and the organic phase was evaporated. The residue was dissolved in methanol (20 mL), sodium bicarbonate (1 spatula) was added and the mixture was stirred at room temperature for 1 h. The solvent was evaporated and the residue was extracted (dichloromethane/water). Then the organic phase was dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, heptane/ethyl acetate=100:0 to 60:40) afforded the title compound (250 mg, 20%) (as the most polar component of two formed in the reaction) which was obtained as a white solid. MS: m/e=351.4 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine | 3.5 mmol, 1.0 g | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N | C15H14N4O2
reactant | triethylamine | 4.3 mmol, 0.59 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobutyryl chloride | 4.3 mmol, 0.48 mL | ClCCCC(=O)Cl | C4H6Cl2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-pyrrolidin-2-one | 250 mg, 20% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N1C(CCC1)=O | C19H18N4O3
